US06225311B1
According to the procedure of Example 5, 1.00 g (2.95 mmol) 2-(4but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester and 0.88 mL (8.849 mmol) of 1-bromo-3-chloropropane provided 0.92 g of methyl2-[{[4-(2-butynyloxy)penyl]sulfonyl}(3-chloropropyl)amino]-3-methylbutanoate as a white solid. Electrospray Mass Spec 416.2 (M+H)+

reactant | 2-(4but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 2.95 mmol, 1.00 g | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H21NO5S
reactant | 1-bromo-3-chloropropane | 8.849 mmol, 0.88 mL | BrCCCCl | C3H6BrCl
product | methyl2-[{[4-(2-butynyloxy)penyl]sulfonyl}(3-chloropropyl)amino]-3-methylbutanoate | 0.92 g | COC(C(C(C)C)N(CCCCl)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C19H26ClNO5S
